US07071177B2
To a 0° C. dichloromethane (300 mL) solution of 25 mL (274 mmol) of aniline was added 16 mL (123 mmol) para-toluoyl chloride over 10 min. The mixture was stirred at room temperature for 0.5 h, treated with 200 mL of ether and filtered immediately. The filtrate was washed with 1 M HCl (2×50 mL), 0.1 M NaOH (2×50 mL), and saturated aqueous ammonium chloride, dried over Na2SO4 and concentrated. Para-methylbenzanilide (17.3 g) was obtained as a tan solid and used directly.

reactant | dichloromethane | 300 mL | ClCCl | CH2Cl2
reactant | aniline | 274 mmol, 25 mL | NC1=CC=CC=C1 | C6H7N
reactant | para-toluoyl chloride | 123 mmol, 16 mL | C1(=CC=C(C=C1)C(=O)Cl)C | C8H7ClO
solvent | ether | 200 mL | CCOCC | C4H10O
product | Para-methylbenzanilide | 17.3 g | CC1=CC=C(NC(C2=CC=CC=C2)=O)C=C1 | C14H13NO
